US08207167B2
3-(2′,4′-Dichlorobiphenyl-4-ylsulfonamido)benzoic acid
Ethyl 3-(2′,4′-dichlorobiphenyl-4-ylsulfonamido)benzoate (0.4 g) was dissolved in a mixture of THF (5 mL) and methanol (5 mL). 1 M NaOH (10 mL) was added and the mixture stirred for 3 hours at room temperature followed by 1 hour at 50° C., by which stage a clear solution had formed. Concentrated HCl was added and the precipitate collected as a white solid. The solid was dissolved in ethyl acetate and dried with Na2SO4. Evaporation gave the title compound as a white solid, recrystallised from ethyl acetate/petrol. 13C NMR (250 MHz, DMSO-d6): δ 122.4, 124.1, 125.0, 126.3, 126.5, 127.7, 129.6, 130.4, 131.9, 132.2, 132.5, 133.8, 137.1, 137.9, 138.9, 142.0 and 166.8. MS, m/z: Calcd, 420.99. Found, 421.22 (M).

reactant | Ethyl 3-(2′,4′-dichlorobiphenyl-4-ylsulfonamido)benzoate | 0.4 g | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)OCC)C=CC1 | C21H17Cl2NO4S
reactant | NaOH | 1 M, 10 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | 3-(2′,4′-Dichlorobiphenyl-4-ylsulfonamido)benzoic acid | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)O)C=CC1 | C19H13Cl2NO4S
